US06451821B1
The process is performed as in Example 1, starting with 2.9 g of N-(tert-butyl)-N′-[(1R)-1-cyclohexylmethyl-2-hydroxyethyl]thiourea in 28 cm3 of aqueous 6N hydrochloric acid by heating at a temperature in the region of 100° C. for 2 h 15 min. By means of an identical work-up, a solid is obtained which is purified by dissolution in 15 cm3 of water and extraction with 10 cm3 of dichloromethane. The aqueous phase is made alkaline by addition of 10 cm3 of 1N sodium hydroxide and is extracted with twice 15 cm3 of ethyl acetate. The combined organic extracts are concentrated under reduced pressure (5 kPa) at a temperature in the region of 40° C. The resulting paste is taken up in twice 20 cm3 of diethyl ether. The solid is filtered off and dried in an oven under reduced pressure (10 Pa) at a temperature in the region of 60° C. 0.4 g of (+)-(4R)-4-cyclohexylmethyl-4,5-dihydro-1,3-thiazol-2-ylamine hydrochloride is obtained in the form of a white solid melting at 169° C. (αD20=+31.8±0.9 at a concentration of 0.5% in methanol).

reactant | N-(tert-butyl)-N′-[(1R)-1-cyclohexylmethyl-2-hydroxyethyl]thiourea | 2.9 g | C(C)(C)(C)NC(=S)N[C@@H](CO)CC1CCCCC1 | C14H28N2OS
reactant | hydrochloric acid | 6N | Cl | ClH
product | (+)-(4R)-4-cyclohexylmethyl-4,5-dihydro-1,3-thiazol-2-ylamine hydrochloride | 0.4 g | Cl.C1(CCCCC1)C[C@H]1N=C(SC1)N | InChI=1S/C10H18N2S.ClH/c11-10-12-9(7-13-10)6-8-4-2-1-3-5-8;/h8-9H,1-7H2,(H2,11,12);1H/t9-;/m1./s1
